US09062092B2
A solution of (S)-1-[(S)-2-(2-cyclopropyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (592 mg, 1.11 mmol), 5-vinyl[1,3]dioxane-5-carboxylic acid (176 mg, 1.11 mmol), triethylamine (343 mg, 472 μL, 3.39 mmol) and tri(o-tolyl)phosphine (67 mg, 0.22 mmol) in 1,4-dioxane (15 mL) was degassed with nitrogen for 5 minutes and then warmed to 50° C. under nitrogen with stirring. Tris(dibenzylideneacetone)dipalladium(0) (101 mg, 0.11 mmol) was added and the mixture was heated to reflux for 20 minutes and then allowed to cool to room temperature. The suspension was filtered through Celite and the filtrate evaporated to give crude 5-((E)-2-{2-[(R)-1-({(S)-1-[(S)-2-(2-cyclopropyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-vinyl)-[1,3]dioxane-5-carboxylic acid.

reactant | (S)-1-[(S)-2-(2-cyclopropyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 1.11 mmol, 592 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC(C(O)C1CC1)=O)=O | C24H30BrN5O4
reactant | 5-vinyl[1,3]dioxane-5-carboxylic acid | 1.11 mmol, 176 mg | C(=C)C1(COCOC1)C(=O)O | C7H10O4
reactant | triethylamine | 3.39 mmol, 472 μL, 343 mg | C(C)N(CC)CC | C6H15N
reactant | tri(o-tolyl)phosphine | 0.22 mmol, 67 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.11 mmol, 101 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-((E)-2-{2-[(R)-1-({(S)-1-[(S)-2-(2-cyclopropyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-vinyl)-[1,3]dioxane-5-carboxylic acid | C1(CC1)C(C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(COCOC1)C(=O)O)C)O | C31H39N5O8
